US07683185B2
6-(4-Chlorophenylsulfanyl)-hexa-2,4-dienoic acid methyl ester (6b).
To a solution of 6-bromohexa-2,4-dienoic acid methyl ester (1.03 g, 5 mmol), triethylamine (1.4 mL, 10 mmol) and tert-butylammonium iodide (92 mg, 0.25 mmol) in freshly distilled THF (25 mL) was added 4-chlorothiophenol under an atmosphere of nitrogen. The mixture was stirred at reflux for 2 hours after which it was concentrated under reduced pressure. The oil was dissolved in, ethyl acetate (100 mL) and then washed successively with saturated aqueous sodium hydrogen carbonate (50 mL), distilled water (50 mL) and brine (50 mL). The organic layer was then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil that was purified by flash chromatography (1:9 diethyl ether:40-60° C. petroleum ether). The resulting yellow solid was recrystallised from diethyl ether/40-60° C. petroleum ether to give the title compound (0.85 g, 63%) as a white solid, mp 75-77° C.

reactant | 6-bromohexa-2,4-dienoic acid methyl ester | 5 mmol, 1.03 g | COC(C=CC=CCBr)=O | C7H9BrO2
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylammonium iodide | 0.25 mmol, 92 mg | [I-].C(C)(C)(C)[NH3+]
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-(4-Chlorophenylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 0.85 g, 63% | COC(C=CC=CCSC1=CC=C(C=C1)Cl)=O | C13H13ClO2S
